US07144883B2
1-Methyl-4-(5-amino-1-benzofuran-7-yl)-piperazine
tert-Butyl 4-(5-amino-1-benzofuran-7-yl)-piperazine-1-carboxylate—1-Methyl-4-(5-Nitro-1-benzofuran-7-yl)-piperazine (1 eq) and tert-butyl 4-(5-nitro-1-benzofuran-7-yl)-piperazine-1-carboxylate (1 eq) were reduced to aromatic amine with Raney-Ni and hydrazine (10 eq) in THF/Ethanol (1:4), 3 h at room temperature. The reaction mixture are filtered through celite pad, the volatiles are evaporated and the crude is used in the next reactions.

reactant | tert-Butyl 4-(5-amino-1-benzofuran-7-yl)-piperazine-1-carboxylate 1-Methyl-4-(5-Nitro-1-benzofuran-7-yl)-piperazine | 1 eq | NC=1C=C(C2=C(C=CO2)C1)N1CCN(CC1)C(=O)OC(C)(C)C.CN1CCN(CC1)C1=CC(=CC=2C=COC21)[N+](=O)[O-]
reactant | tert-butyl 4-(5-nitro-1-benzofuran-7-yl)-piperazine-1-carboxylate | 1 eq | [N+](=O)([O-])C=1C=C(C2=C(C=CO2)C1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H21N3O5
reactant | hydrazine | 10 eq | NN | H4N2
solvent | THF Ethanol | C1CCOC1.C(C)O
catalyst | Ni | [Ni] | Ni
product | 1-Methyl-4-(5-amino-1-benzofuran-7-yl)-piperazine | CN1CCN(CC1)C1=CC(=CC=2C=COC21)N | C13H17N3O
